US07732604B2
To a solution of the 5-bromo-N*3*-(1-quinolin-6-yl-ethyl)-pyrazine-2,3-diamine in anhydrous DMF (25 mL) was added isoamyl nitrile (0.98 mL, 1.2 mmol) at 0° C. The reaction was stirred at 0° C. for 5 min, then the ice bath was removed and allowed to stir at ambient temperature for 5 min. The reaction was then heated at 70° C. for 1 hour, cooled and quenched with sat. aqueous solution of Na2SO3 (10 mL). Water (50 mL) and EtOAc (50 mL) were added. The organic layer was separated and the aqueous layer was extracted with EtOAc (4×100 mL). The combined organics were washed with NaHCO3 (50 mL) and water (3×50 mL), dried over Na2SO4, filtered and concentrated to give 6-[1-(6-bromo-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)-ethyl]-quinoline (1.56 g, 72% yield).

reactant | 5-bromo-N*3*-(1-quinolin-6-yl-ethyl)-pyrazine-2,3-diamine | BrC=1N=C(C(=NC1)N)NC(C)C=1C=C2C=CC=NC2=CC1 | C15H14BrN5
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 6-[1-(6-bromo-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)-ethyl]-quinoline | 1.56 g, 72% yield | BrC1=CN=C2C(=N1)N(N=N2)C(C)C=2C=C1C=CC=NC1=CC2 | C15H11BrN6
